data/oMe_Silver.jsonl
{"reaction_id": "NR-310_1-C_2-O[Si](C(C)(C)C)(C)C_3-OC(=O)C_4-C_5-C#N_6-OS(=O)(=O)C(F)(F)F_7-P(c1ccccc1)(c1ccccc1)CCP(c1ccccc1)c1ccccc1","level": "medium","name": "Tsuji-Trost Reaction","reactants_smiles": ["CC(O[Si](C(C)(C)C)(C)C)=C(OC(=O)C)C(C)(C#N)(OS(=O)(=O)C(F)(F)F)","N#CCC#N","[Pd]"],"products_smiles": ["CC(O[Si](C(C)(C)C)(C)C)=C(OC(=O)C)C(C)(C#N)C(C#N)C#N"],"conditions": "Ligand, Base (e.g. NaH), Pd","mechanism_step_nums": 4,"mechanism": [{"step": 1,"type": "addition","subtype": "oxidative_addition","intermediate_smiles": "C(C)(O[Si](C(C)(C)C)(C)C)=C(OC(=O)C)C([Pd](OS(=O)(=O)C(F)(F)F)(P(c1ccccc1)(c1ccccc1)CCP(c1ccccc1)c1ccccc1)(P(c1ccccc1)(c1ccccc1)CCP(c1ccccc1)c1ccccc1))(C)(C#N)","step_weight": 0,"rationale": "Pd(0) coordinates to the allylic system and undergoes oxidative addition due to the good leaving group ability and stabilization of the resulting π-allyl–Pd(II) complex by conjugation."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "[CH-](C#N)C#N","step_weight": 0,"rationale": "The base deprotonates malononitrile, as the α-proton is highly acidic due to strong electron-withdrawing cyano groups stabilizing the resulting carbanion."},{"step": 3,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "N#CC(C#N)C(C)(C#N)/C1(OC(=O)C)[Pd](P(c1ccccc1)(c1ccccc1)CCP(c1ccccc1)c1ccccc1)(P(c1ccccc1)(c1ccccc1)CCP(c1ccccc1)c1ccccc1)C1(O[Si](C(C)(C)C)(C)C)(C)","step_weight": 0,"rationale": "The nucleophilic carbanion attacks the electrophilic π-allyl–Pd complex at the less hindered terminus, favored by orbital overlap and reduced steric hindrance."},{"step": 4,"type": "dissociation","subtype": "dissociation","intermediate_smiles": "CC(O[Si](C(C)(C)C)(C)C)=C(OC(=O)C)C(C)(C#N)C(C#N)C#N","step_weight": 0,"rationale": "Product dissociates via reductive elimination, regenerating Pd(0) due to the thermodynamic stability of the C–C bond and the catalyst turnover requirement."}],"description": "In the Tsuji–Trost reaction, Pd(0) first undergoes oxidative addition to the allylic substrate, forming a π-allyl–Pd complex. The base deprotonates malononitrile to generate a stabilized nucleophile, which attacks the π-allyl complex. Reductive elimination releases the substituted product and regenerates Pd(0)."}
{"reaction_id": "NR-240_1-c1occc1_2-S(=O)(=O)c1ccccc1_3-C1CCC1_4-C_5-CC=C(C)C","level": "medium","name": "Stevens Rearrangement","reactants_smiles": ["c1occc1C(=O)C(S(=O)(=O)c1ccccc1)[N+](C1CCC1)(C)CC=C(C)C","[Li]N(C(C)C)C(C)C"],"products_smiles": ["c1occc1C(=O)C(S(=O)(=O)c1ccccc1)(CC=C(C)C)N(C1CCC1)(C)"],"conditions": "","mechanism_step_nums": 2,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "c1occc1C([O-])=C(S(=O)(=O)c1ccccc1)[N+](C1CCC1)(C)CC=C(C)C","step_weight": 0,"rationale": "LDA selectively deprotonates the α-carbon due to enhanced acidity from carbonyl resonance and the inductive electron-withdrawing effect of the positively charged nitrogen."},{"step": 2,"type": "rearrangement","subtype": "1,2-shift","intermediate_smiles": "c1occc1C(=O)C(S(=O)(=O)c1ccccc1)(CC=C(C)C)N(C1CCC1)(C)","step_weight": 0,"rationale": "The nitrogen ylide rearranges via a [1,2]-shift because migration relieves charge separation and forms a stable tertiary amine, favored by the ability of the migrating group to stabilize developing negative charge."}],"description": "A strong, non-nucleophilic base deprotonates the acidic α-carbon between the carbonyl and quaternary ammonium, forming a nitrogen ylide stabilized by resonance with the carbonyl. This ylide undergoes a [1,2]-alkyl shift, yielding a more stable tertiary amine product."}
